US05641883
(iv) Preparation of 8-t-butyl-3-aminomethyl-1-oxaspiro(4,5)decane
To a solution of lithium aluminum hydride (LAH) (2.19 g, 58 mmol) in THF (100 ml) was added 8-t-butyl-3-cyano-1-oxaspiro-(4,5)decane (8.5 g, 38.5 mmol) in THF (25 ml). The reaction mixture was refluxed for 3 hours. After cooling excess LAH was carefully destroyed by addition of saturated, aqueous sodium sulfate solution. The reaction mixture was filtrated from insoluble material and the filtrate was evaporated in vacuo. The pale yellow oil (8.6 g) was purified by Kugelrohr distillation (125°-135° C., 0.05 mbar) to yield the product as a colourless liquid (5.7 g, nD22 : 1.4817).

reactant | lithium aluminum hydride | 58 mmol, 2.19 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 8-t-butyl-3-cyano-1-oxaspiro-(4,5)decane | 38.5 mmol, 8.5 g | C(C)(C)(C)C1CCC2(CC(CO2)C#N)CC1 | C14H23NO
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 8-t-butyl-3-aminomethyl-1-oxaspiro(4,5)decane | 5.7 g | C(C)(C)(C)C1CCC2(CC(CO2)CN)CC1 | C14H27NO
